US04902794
In the manner given in Example 11, a solution of 1,3-dihydro-8-(ethylsulfinyl)-6-(diethylamino)-5-(m-formamidophenyl)-2H-1,4-benzodiazepine-2-thione and hydroxyacetic acid hydrazide in n-butylalcohol was refluxed to give 9-(ethylsulfinyl)-7-(diethylamino)-1-hydroxymethyl)-6-(m-formamidophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,3-dihydro-8-(ethylsulfinyl)-6-(diethylamino)-5-(m-formamidophenyl)-2H-1,4-benzodiazepine-2-thione | C(C)S(=O)C1=CC2=C(C(=NCC(N2)=S)C2=CC(=CC=C2)NC=O)C(=C1)N(CC)CC | C22H26N4O2S2
reactant | hydroxyacetic acid hydrazide | OCC(=O)NN | C2H6N2O2
solvent | n-butylalcohol | C(CCC)O | C4H10O
product | 6-(m-formamidophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(=O)NC=1C=C(C=CC1)C1=NCC=2N(C3=C1C=CC=C3)C=NN2 | C17H13N5O
